US07300944B2
4-(2-Chloro-phenyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one
To a stirring solution of 5-aminopyrazole (2.0 g, 20.1 mmol) in EtOH (40 mL) was added 2-chlorobenzaldehyde (2.8 mL, 20.1 mmol), followed by Meldrum's Acid (2.9 g, 20.1 mmol). The reaction was heated to 65° C. After 16 hr, the reaction was cooled to room temperature, filtered, washed with EtOH, and dried under reduced pressure to give the title compound (3.9 g, 78% yield) as a colorless solid. LRMS m/z (APCI+) 248 (M+1).

reactant | 5-aminopyrazole | 20.1 mmol, 2.0 g | NC1=CC=NN1 | C3H5N3
reactant | 2-chlorobenzaldehyde | 20.1 mmol, 2.8 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | Meldrum's Acid | 20.1 mmol, 2.9 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | EtOH | 40 mL | CCO | C2H6O
product | 4-(2-Chloro-phenyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one | 3.9 g, 78% yield | ClC1=C(C=CC=C1)C1C=2C(NC(C1)=O)=NNC2 | C12H10ClN3O
